US09340556B2
A mixture of ethyl 7,8-dimethoxy-4-oxo-1,4-dihydroquinoline-3-carboxylate (40 g, 144 mmol) and potassium carbonate (29.9 g, 216 mmol) in triethyl phosphate (123 ml, 721 mmol) was stirred at 120° C. for 24 h. LCMS indicated completion of the reaction. The reaction mixture was cooled down to rt and diluted with water, extracted with DCM, dried over sodium sulfate and evaporated in vacuo. The crude material was recrystallized in EtOH, the precipitate was collected by filtration, washed by cold EtOH and dried in air to afford ethyl 1-ethyl-7,8-dimethoxy-4-oxo-1,4-dihydroquinoline-3-carboxylate (26 g, 85 mmol, 59.0% yield) as a yellow solid. LCMS: (M+H)+: 306.2.

reactant | ethyl 7,8-dimethoxy-4-oxo-1,4-dihydroquinoline-3-carboxylate | 144 mmol, 40 g | COC1=CC=C2C(C(=CNC2=C1OC)C(=O)OCC)=O | C14H15NO5
reactant | potassium carbonate | 216 mmol, 29.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | triethyl phosphate | 721 mmol, 123 ml | P(=O)(OCC)(OCC)OCC | C6H15O4P
solvent | water | O | H2O
product | ethyl 1-ethyl-7,8-dimethoxy-4-oxo-1,4-dihydroquinoline-3-carboxylate | 85 mmol, 26 g, 59.0% yield | C(C)N1C=C(C(C2=CC=C(C(=C12)OC)OC)=O)C(=O)OCC | C16H19NO5
